US08012956B2
To a solution of methyl 5-amino-4-cyano-2-fluorobenzoate (437 mg, 2.2 mmol) in THF (13 mL) was added copper(I) iodide (419 mg, 2.2 mmol), diiodomethane (890 uL, 11 mmol), and isoamyl nitrite (890 uL, 6.6 mmol). The solution was heated to reflux for 4 h and was then allowed to cool to room temperature. After dilution with ethyl acetate, water was added and the mixture was filtered through celite. The biphasic filtrate was partitioned. The organic phase was dried over magnesium sulfate, filtered, and concentrated. The residue was then subject to column chromatography to provide impure methyl 4-cyano-2-fluoro-5-iodobenzoate (452 mg, ˜63% purity, ˜0.93 mmol). The remainder of the material consisted primarily of methyl 4-cyano-2-fluorobenzoate and was carried forward into the subsequent reaction without further purification. 1H NMR (400 MHz, CDCl3): 8.44 (d, 1H), 7.43 (d, 1H), 3.97 (s, 3H); MS (EI) for C9H5FINO2: 305 (M+).

reactant | methyl 5-amino-4-cyano-2-fluorobenzoate | 2.2 mmol, 437 mg | NC=1C(=CC(=C(C(=O)OC)C1)F)C#N | C9H7FN2O2
reactant | diiodomethane | 11 mmol, 890 uL | ICI | CH2I2
reactant | isoamyl nitrite | 6.6 mmol, 890 uL | N(=O)OCCC(C)C | C5H11NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 13 mL | C1CCOC1 | C4H8O
catalyst | copper(I) iodide | 2.2 mmol, 419 mg | [Cu]I
solvent | water | O | H2O
product | methyl 4-cyano-2-fluoro-5-iodobenzoate | ˜0.93 mmol, 452 mg, ~63% | C(#N)C1=CC(=C(C(=O)OC)C=C1I)F | C9H5FINO2
